US07456289B2
NaIO4 (0.204 g, 1.12 mmol) was added to 1-(6-methoxy-benzofuran-3-yl)-ethane-1,2-diol (0.180 g, 1.196 mmol) in THF (50 mL) and water (1 mL) with stirring. The mixture was stirred overnight at room temperature under N2. Water (10 mL) was added, and the mixture was concentrated to half its volume and extracted with EtOAc. The organic layer was washed with brine and water, dried over anhyd. MgSO4, and evaporated to give a residue, which was purified on a silica gel column eluting with EtOAc/hexane (1:10) to give 6-methoxybenzofuran-3-carbaldehyde (0.110 g, 73%).

reactant | 1-(6-methoxy-benzofuran-3-yl)-ethane-1,2-diol | 1.196 mmol, 0.180 g | COC1=CC2=C(C(=CO2)C(CO)O)C=C1 | C11H12O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | Water | 10 mL | O | H2O
product | 6-methoxybenzofuran-3-carbaldehyde | 0.110 g, 73% | COC1=CC2=C(C(=CO2)C=O)C=C1 | C10H8O3
